US07179820B2
7-[(R)-2-((E)-3-Hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-heptanoic Acid Amide
Triethylamine (9 μL, 0.065 mmol) was added to a solution of 7-[(R)-2-((E)-3-hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-heptanoic acid (11.3 mg, 0.030 mmol) in CH2Cl2 (0.3 mL) at rt. After cooling to 0° C., ethyl chloroformate (3.2 μL, 0.033 mmol) was added. After 1 h at 0° C., a solution of ammonia (0.5 M in 1,4-dioxane, 0.3 mL, 0.15 mmol) was added and the reaction mixture was allowed to warm to rt. After 18 h at rt, the reaction mixture was diluted with EtOAc (10 mL) and washed with aqueous HCl (0.5 M, 3 mL), saturated aqueous NaHCO3 (5 mL) and brine (5 mL) then dried (Na2SO4), filtered and concentrated in vacuo. Purification of the residue by flash column chromatography on silica gel (CH2Cl2→3% MeOH/CH2Cl2, gradient) afforded 3.5 mg (31%) of the title compound.

reactant | Triethylamine | 0.065 mmol, 9 μL | C(C)N(CC)CC | C6H15N
reactant | 7-[(R)-2-((E)-3-hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-heptanoic acid | 0.030 mmol, 11.3 mg | OC(/C=C/[C@@H]1N(C(CCC1)=O)CCCCCCC(=O)O)CC1=CC=CC=C1 | C22H31NO4
reactant | ethyl chloroformate | 0.033 mmol, 3.2 μL | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 0.15 mmol, 0.5 M, 0.3 mL | N | H3N
solvent | CH2Cl2 | 0.3 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 7-[(R)-2-((E)-3-Hydroxy-4-phenyl-but-1-enyl)-6-oxo-piperidin-1-yl]-heptanoic Acid Amide | 3.5 mg, 31% | OC(/C=C/[C@@H]1N(C(CCC1)=O)CCCCCCC(=O)N)CC1=CC=CC=C1 | C22H32N2O3
